US08536210B2
Step 1: 5-(2-Chlorophenyl)-1,3-benzodioxole-4-carbaldehyde
The process described in Method B was followed. 5-Bromo-1,3-benzodioxole-4-carbaldehyde (0.458 g, 2.00 mmol) and 2-chlorophenylboronic acid (0.469 g, 3.00 mmol) were used to obtain the title compound. The crude product was purified by column chromatography with a mixture of hexane:ethyl acetate (4:1) as the eluent.

reactant | 5-Bromo-1,3-benzodioxole-4-carbaldehyde | 2.00 mmol, 0.458 g | BrC1=C(C2=C(OCO2)C=C1)C=O | C8H5BrO3
reactant | 2-chlorophenylboronic acid | 3.00 mmol, 0.469 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 5-(2-Chlorophenyl)-1,3-benzodioxole-4-carbaldehyde | ClC1=C(C=CC=C1)C1=C(C2=C(OCO2)C=C1)C=O | C14H9ClO3
